US08119661B2
(3aS,7aS)-3-[1-(4-methyl-1-propanoyl-4-piperidyl)-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-one
Following the procedure used in Step H of example 14 and starting from (3aS,7aS)-3-[1-(4-methyl-4-piperidyl)-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-one (HCl salt, 1.5 g, 3.8 mmol) and propanoyl chloride (0.43 mL, 4.89 mmol), the title compound (740 mg, 51.7%) was obtained after purification by flash chromatography (4% MeOH in dichloromethane). 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 0.96 (s, 3H), 1.18 (t, 3H), 1.3-1.5 (m, 6H), 1.4-1.9 (m, 8H), 1.92-2.02 (m, 1H), 2.1-2.3 (m, 3H), 2.32-2.4 (m, 2H), 2.84-3.08 (m, 4H), 3.23-3.4 (m, 2H), 3.42-3.5 (m, 1H), 3.82-3.88 (m, 1H), 3.7-3.8 (m, 1H), 4.43 (s, 1H). MS (M+1): 377.16

reactant | (3aS,7aS)-3-[1-(4-methyl-4-piperidyl)-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-one | 3.8 mmol, 1.5 g | CC1(CCNCC1)N1CCC(CC1)N1C(N[C@@H]2[C@@H]1CCCC2)=O | C18H32N4O
reactant | propanoyl chloride | 4.89 mmol, 0.43 mL | C(CC)(=O)Cl | C3H5ClO
product | (3aS,7aS)-3-[1-(4-methyl-1-propanoyl-4-piperidyl)-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-one | 740 mg, 51.7% | CC1(CCN(CC1)C(CC)=O)N1CCC(CC1)N1C(N[C@@H]2[C@@H]1CCCC2)=O | C21H36N4O2
